US04289787
N,N,N-Trimethyl-4-(4-methoxyphenyl)butylammonium bromide
N,N-Dimethyl-4-(4-methoxyphenyl)butylamine (4.35 g.) was reacted with methyl bromide according to the procedure of Example 46 to provide 4.95 g. of N,N,N-trimethyl-4-(4-methoxyphenyl)butylammonium bromide, which was recrystallized from acetone and methanol. M.P. 166°-168° C.

reactant | N,N-Dimethyl-4-(4-methoxyphenyl)butylamine | 4.35 g | CN(C)CCCCC1=CC=C(C=C1)OC | C13H21NO
reactant | methyl bromide | CBr | CH3Br
product | N,N,N-Trimethyl-4-(4-methoxyphenyl)butylammonium bromide | [Br-].C[N+](C)(C)CCCCC1=CC=C(C=C1)OC | InChI=1S/C14H24NO.BrH/c1-15(2,3)12-6-5-7-13-8-10-14(16-4)11-9-13;/h8-11H,5-7,12H2,1-4H3;1H/q+1;/p-1
